2193-12-14 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA
   24 Hour Events:
   - She was weaned off CPAP to standby in the am.  Her ABG on standby in
   the afternoon was 7.50/44/116/36
   - Her PICC line was not found to be coiled on repeat CXR.
   - Social work met with the patient to help with coping.
   - Given her depression she was started on a low dose of celexa.
   - Surgery saw the patient due to concern for trach leak and at this
   time do not want to change the trach.  Will consider changing it if she
   starts worsening.  With her history of possible tracheomalacia, IP
   offered to bronch her to evaluate her airway if our team feels this is
   an issue.
   - Nutrition consult: cont current TFs, will need S & S prior to any po
   diet
   - She was started on lactulose for constipation.
   - Legionella urinary antigen was negative and her sputum grew out
   sparse gram negative rods.
   History obtained from Patient
   Allergies:
   History obtained from PatientPrednisone
   pyschosis;
   Last dose of Antibiotics:
   Vancomycin - [**2193-12-13**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2193-12-13**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-13**] 08:08 AM
   Lansoprazole (Prevacid) - [**2193-12-13**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Constipation
   Flowsheet Data as of  [**2193-12-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 110 (87 - 112) bpm
   BP: 105/61(70) {105/35(45) - 146/92(98)} mmHg
   RR: 29 (20 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,799 mL
                                                                    592 mL
   PO:
             TF:
                                                                  1,559 mL
                                                                    518 mL
   IVF:
                                                                    840 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                  1,110 mL
   Urine:
                                                                  1,260 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,539 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 986 (489 - 986) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: 7.50/44/116/34/10
   Ve: 6 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach mask in place
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): ,
   Movement: Not assessed, Tone: Normal
   Labs / Radiology
   279 K/uL
   9.7 g/dL
   123 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.5 mEq/L
   9 mg/dL
   98 mEq/L
   141 mEq/L
   28.8 %
   8.8 K/uL
        [image002.jpg]
                             [**2193-12-12**]  04:07 AM
                             [**2193-12-12**]  06:03 AM
                             [**2193-12-13**]  04:23 AM
                             [**2193-12-13**]  06:25 AM
                             [**2193-12-13**]  02:13 PM
                             [**2193-12-14**]  04:30 AM
   WBC
   12.8
   12.7
   8.8
   Hct
   31.7
   29.2
   28.8
   Plt
   [**Telephone/Fax (3) 3728**]
   Cr
   0.4
   0.3
   0.3
   TCO2
   34
   34
   36
   Glucose
   115
   127
   123
   Other labs: PT / PTT / INR:14.2/23.5/1.2, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 PNEUMONIA, OTHER
   Assesment and Plan: 38 year old female with recent intracranial bleed,
   trach/peg with hypoxia and PNA.
   # Hypoxia: Hypoxia is likely [**1-13**] PNA.   Last ABG on standby CPAP was
   7.50/44/116/36.  Patient mentating clearly, interactive.  Coughing and
   talking over trach.  Per surgery, no need to intervene unless patient's
   respiratory status worsens.
   - continue trach mask with CPAP on standby - needs close monitoring or
   respiratory status to watch for fatigue
   -continue Vanc/zosyn/azithro for presumed HAP
   # PNA: Fevers, leukocytosis and RLL infitrate c/w PNA. Patient given
   Ceftriaxone and Azithromycin at OSH; however, the patient was recently
   hospitalized, then at rehab and has a trach, putting her at risk for
   HAP, MSRA and Pseudomonas.
   - on admission changed to Vanc/ Zosyn and Azithromycin, continue these
   for now pending culture results
   - legionella UA negative
   - sputum culture with 2+ GNR, and 1+ GPC,  speciation/sensitivies
   pending
   -urine culture negative
   -blood cultures pending from admission and [**12-13**]
   # Fever:  Tmax 99.8, afebrile this [**Last Name (un) 3698**].  Likely 2.2 to underlying
   PNA, fevers in first 2-3 days not unexpected given severity of
   infection.
   - f/u cultures
   - continue abx as above
   # Intracranial hemorrhage:
   - continue dilantin 300tid, continue checking levle per neurology, goal
   15-20, check daily dilantin levels
   - dilantin level 15.3 this morning
   # Constipation/Abdominal pain: Got lactulose, enema nad disimpacted
   yesterday with moderate amoutn of stool
   -continue lactulose q4h until large BM
   -cautious use of oxycodone as likely worsening consitpation/abd pain
   # FEN: TF via PEG
   # Access: PIV, PICC- was initially thought to be coiled, repeat CXR
   showed that it was not per rads read
   # PPx: heparin sc
   # Code:  Full CODE
   # Dispo: called out to floor
   # Comm:  [**Name (NI) **] [**Known lastname **] (husband) [**Telephone/Fax (1) 3669**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-12-13**] 09:09 PM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2193-12-12**] 05:23 AM
   18 Gauge - [**2193-12-12**] 05:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2193-12-14 11:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Good progress, now back on trach collar.
   Tolerating Passe-Muir valve, able to communicate, appropriate.
   States to feel overall 'better".
   Notes constipation.
   Allergies:
   Prednisone
   pyschosis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-12-13**] 10:00 PM
   Vancomycin - [**2193-12-14**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-12-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-12-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2193-12-14**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 106 (87 - 112) bpm
   BP: 119/79(88) {105/35(55) - 146/92(98)} mmHg
   RR: 28 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,799 mL
                                                                  1,116 mL
   PO:
             TF:
                                                                  1,559 mL
                                                                    800 mL
   IVF:
                                                                    840 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                  1,250 mL
   Urine:
                                                                  1,260 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,539 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 986 (986 - 986) mL
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.50/44/116/34/10
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Tracheotomy tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG site intact
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   279 K/uL
   123 mg/dL
   0.3 mg/dL
   34 mEq/L
   3.5 mEq/L
   9 mg/dL
   98 mEq/L
   141 mEq/L
   28.8 %
   8.8 K/uL
        [image002.jpg]
                             [**2193-12-12**]  04:07 AM
                             [**2193-12-12**]  06:03 AM
                             [**2193-12-13**]  04:23 AM
                             [**2193-12-13**]  06:25 AM
                             [**2193-12-13**]  02:13 PM
                             [**2193-12-14**]  04:30 AM
   WBC
   12.8
   12.7
   8.8
   Hct
   31.7
   29.2
   28.8
   Plt
   [**Telephone/Fax (3) 3728**]
   Cr
   0.4
   0.3
   0.3
   TCO2
   34
   34
   36
   Glucose
   115
   127
   123
   Other labs: PT / PTT / INR:14.2/23.5/1.2, Lactic Acid:1.2 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Pnemonia
   RESPIRATORY FAILURE -- attributed to pneumonia, hypoxemia.  Improving.
   Monitor SaO2 > 90%.
   LUNG INFILTRATE, right -- suspect aspiration pneumonia.  Predisposing
   condition of recent CVA and tracheotomy.  Check cultures of blood and
   sputum culture.  Continue empirical antimicrobials.
   FLUIDS -- improved resussitation.  monitor I/O.  Maintain balance.
   s/p INTRACRANIAL HEMORRHAGE
 SAH; unclear etiology.  Dense left
   hemiplegia.  Prophylactic dilantin
 monitor level.  Physical therapy
   consult.
   BACK PAIN -- chronic.  Narcotics prn.
   NUTRITIONAL SUPPORT  -- TF via PEG.
   PICC
 position OK.
   CONSTIPATION -- optimize medical regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2193-12-12**] 05:23 AM
   18 Gauge - [**2193-12-12**] 05:23 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill